* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1432.asc
* Generated by LTspice 24.1.9 for Windows.
C1 N002 N005 .02µ
C2 N004 N005 .03µ
C3 N003 N005 .1µ
R1 N004 N003 680
C4 N001 N005 10µ
L1 N005 N006 50µ Rpar=2K
R2 N006 OUT 13m
V1 IN 0 10
C5 OUT 0 390µ
D1 0 N005 1N5818
D2 OUT N001 1N4148
X§U1 N006 OUT IN N001 N005 N004 0 0 LT1432
X§U2 N004 N002 N005 IN N001 LT1271
Rload OUT 0 5
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 3m startup
.lib LT1271.sub
.lib LT1432.sub
.backanno
.end
